US08895582B2
To a solution of (6-Fluoro-isoquinolin-3-yl)-carbamic acid (S)-5-(2-tert-butoxycarbonylamino-acetylamino)-2-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-pentyl ester (105 mg, 0.16 mmol) in DCM (10.0 mL) was added TFA (1.0 mL). The mixture was stirred at RT for 2 h. The mixture was concentrated and re-dissolved DCM. The DCM layer was washed with K2CO3 (2 N), saturated NaHCO3, and brine, dried over Na2SO4, filtered, and concentrated. The residue was purified on silica gel column using a mixture of DCM and MeOH to give (S)-5-(2-aminoacetamido)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)pentyl 6-fluoroisoquinolin-3-ylcarbamate (71 mg, 79%). LRMS (M+H+) m/z 563.2.

reactant | (6-Fluoro-isoquinolin-3-yl)-carbamic acid (S)-5-(2-tert-butoxycarbonylamino-acetylamino)-2-[3-(2-chloro-3-fluoro-benzyl)-1-methyl-ureido]-pentyl ester | 0.16 mmol, 105 mg | C(C)(C)(C)OC(=O)NCC(=O)NCCC[C@@H](COC(NC=1N=CC2=CC=C(C=C2C1)F)=O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C | C31H37ClF2N6O6
reactant | TFA | 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10.0 mL | C(Cl)Cl | CH2Cl2
product | (S)-5-(2-aminoacetamido)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)pentyl 6-fluoroisoquinolin-3-ylcarbamate | 71 mg, 79% | FC=1C=C2C=C(N=CC2=CC1)NC(OC[C@H](CCCNC(CN)=O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C26H29ClF2N6O4
